US07750154B2
Using an analogous procedure to that described paragraph (B) in the portion of Example 1 which is concerned with the preparation of starting materials, tert-butyl piperazin-1-ylacetate was reacted with N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-fluoro-2-nitrobenzamide to give tert-butyl(4-{3-[({5-[(cyclopropylamino)carbonyl]-2-methylphenyl}amino)carbonyl]-4-nitrophenyl}piperazin-1-yl)acetate; NMR Spectrum: (DMSOd6) 0.58 (m, 2H), 0.70 (m, 2H), 1.43 (s, 9H), 2.32 (s, 3H), 2.66 (m, 4H), 2.86 (m, 1H), 3.21 (s, 2H), 3.53 (m, 4H), 7.09 (m, 2H), 7.30 (m, 1H), 7.59 (m, 1H), 7.99 (s, 1H), 8.07 (m, 1H), 8.38 (m, 1H), 9.93 (s, 1H); Mass Spectrum: M+H+ 538.

reactant | tert-butyl piperazin-1-ylacetate | N1(CCNCC1)CC(=O)OC(C)(C)C | C10H20N2O2
reactant | N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-fluoro-2-nitrobenzamide | C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(C1=C(C=CC(=C1)F)[N+](=O)[O-])=O)C | C18H16FN3O4
product | tert-butyl(4-{3-[({5-[(cyclopropylamino)carbonyl]-2-methylphenyl}amino)carbonyl]-4-nitrophenyl}piperazin-1-yl)acetate | C(C)(C)(C)OC(CN1CCN(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])C(=O)NC1=C(C=CC(=C1)C(=O)NC1CC1)C)=O | C28H35N5O6
